US09238631B2
di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(3-tert-butoxy-4-{2-[(methylsulfonyl)oxy]ethoxy}benzyl)-L-glutamate
To a stirred solution of 100 mg (0.172 mmol) di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-[3-tert-butoxy-4-(2-hydroxyethoxy)benzyl]-L-glutamate, 25.6 mg (0.253 mmol) triethylamine in ca. 1 ml dichloromethane was added 25.5 mg (0.222 mmol) methane sulphonic acid chloride at 0° C. The reaction mixture was stirred at room temperature for 4 hours. Further 25.6 mg (0.253 mmol) triethylamine and 25.5 mg (0.222 mmol) methane sulphonic acid chloride were added. The reaction mixture is stirred for another 4 hours. The reaction mixture is diluted with dichloro methane. The organic phase washed with saturated aqueous ammonium chloride, saturated aqueous sodium hydrogen carbonate solution, dried with sodium sulfate and concentrated in vacuo. The crude product is purified by column chromatography (silica gel, hexane/ethylacetate gradient: 5:1→1:99). The desired product was obtained in 79.6% yield (99 mg, 0.14 mmol).

reactant | di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-[3-tert-butoxy-4-(2-hydroxyethoxy)benzyl]-L-glutamate | 0.172 mmol, 100 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC(=C(C=C1)OCCO)OC(C)(C)C)C(=O)OC(C)(C)C | C31H51NO9
reactant | triethylamine | 0.253 mmol, 25.6 mg | C(C)N(CC)CC | C6H15N
reactant | methane sulphonic acid chloride | 0.222 mmol, 25.5 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.253 mmol, 25.6 mg | C(C)N(CC)CC | C6H15N
reactant | methane sulphonic acid chloride | 0.222 mmol, 25.5 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ca. 1 ml | ClCCl | CH2Cl2
product | di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(3-tert-butoxy-4-{2-[(methylsulfonyl)oxy]ethoxy}benzyl)-L-glutamate | 79.6% yield | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC(=C(C=C1)OCCOS(=O)(=O)C)OC(C)(C)C)C(=O)OC(C)(C)C | C32H53NO11S
